Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L groin pain
 
Major Surgical or Invasive Procedure:
Foley placement (d/c'd prior to discharge)
 
History of Present Illness:
Mr. ___ is a ___ male with no significant PMH 
presenting
with L-sided groin pain x 6 hours.

Interview conducted with aid of phone ___ interpreter.

Mr. ___ reports that he was in his usual state of health until
___, when he developed acute onset L-sided lower abdominal pain
radiating to his groin around 4pm. He described the pain as 
sharp
and "cramping" in nature. It improved somewhat with Aleve but
returned at 7pm, at which time he called EMS and was brought to
the ___ ED. He denies F/C, CP, dysuria, hematuria, back pain,
or decreased urination over the last few days. He had no N/V at
home, but after arrival to the ED he was intermittently 
nauseated
and had 3 episodes of NBNB emesis. He denies
diarrhea/constipation or melena/hematochezia, with last bowel
movement ___. He has no history of kidney stones and no prior,
similar episodes. No recent weight loss. He does report taking
vit C daily for mouth sores, which he purchased from ___.

ED
VS T97.6, HR 90, BP 160/102, RR 18, 100% on RA --> HR 107, BP
111/58, RR 17, 100% 4L NC (reportedly with brief desaturations 
to
the ___ on RA)
Exam: abd soft, NT, no flank or CVA tenderness
Labs: CBC WNL, Cr 1.2, K 3.4, HCO3 16, AG 22, Phos 0.7, LFTs 
WNL,
lipase WNL, VBG ___ (unreliable per ED, added to old labs)
--> 7.42/31, lactate 4.4 -> 2.4, Stox neg, UA/UCx/BCx pending
Imaging: CTU with mild L-sided hydroureteronephrosis with distal
ureteral stone 2mm in size, CXR without consolidation or
pulmonary edema
Consults: Urology by phone thought presentation c/w stone and
dehydration
Interventions: morphine 4mg then 2mg, toradol, Zofran 4mg x 2,
Ativan 1mg, CTX 1g (06:20), NS 2L, LR 3L, bladder scanned
multiple times for 70cc so Foley eventually placed with 70cc UOP
(UA/UCx sent)

On arrival to the floor, Mr. ___ reports complete resolution of
his groin pain. He denies F/C, SOB, cough/hemoptysis, flank 
pain,
N/V, dysuria, diarrhea/constipation, melena/hematochezia,
dizziness/lightheadedness, headaches, new rashes.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
No known ___
 
Social History:
___
Family History:
Parents are alive and healthy. No known history of renal disease
or renal stones.
 
Physical Exam:
ADMISSION:
==========
T98.2, BP 123/72, HR 96, RR 14, 100% RA
Lying 121/78, HR 92
Sitting 125/81, HR 100
Standing 119/74, HR 105
UOP: 399 cc since ___ AM
GENERAL: NAD, lying comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation; Foley in
place draining yellow urine; no CVA tenderness b/l
SKIN: No rashes or ulcerations noted
MSK: Lower extremities warm without edema
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect

DISCHARGE:
==========
24 HR Data (last updated ___ @ 746)
Temp: 98.5 (Tm 99.8), BP: 100/63 (100-133/63-81), HR: 83 
(74-85),
RR: 16, O2 sat: 98% (98-100), O2 delivery: RA   
___: 950cc UOP since MN
___: 4.2L UOP
GENERAL: NAD, lying comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation, no CVA
tenderness, no Foley
SKIN: No rashes or ulcerations noted
MSK: Lower extremities warm without edema
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION:
==========
___ 10:30PM BLOOD WBC-7.8 RBC-5.06 Hgb-15.2 Hct-43.8 MCV-87 
MCH-30.0 MCHC-34.7 RDW-12.5 RDWSD-39.0 Plt ___
___ 10:30PM BLOOD Neuts-60.2 ___ Monos-3.8* Eos-1.8 
Baso-0.6 Im ___ AbsNeut-4.70 AbsLymp-2.59 AbsMono-0.30 
AbsEos-0.14 AbsBaso-0.05
___ 10:30PM BLOOD Plt ___
___ 10:30PM BLOOD Glucose-131* UreaN-12 Creat-1.2 Na-141 
K-3.4* Cl-103 HCO3-16* AnGap-22*
___ 02:50AM BLOOD ALT-12 AST-14 AlkPhos-46 TotBili-0.7
___ 02:50AM BLOOD Lipase-26
___ 10:30PM BLOOD Calcium-9.9 Phos-0.7* Mg-2.1
___ 12:57AM BLOOD pO2-58* pCO2-19* pH-7.56* calTCO2-18* 
Base XS--1 Comment-GREEN TOP
___ 01:08AM BLOOD pO2-40* pCO2-31* pH-7.42 calTCO2-21 Base 
XS--2 Intubat-NOT INTUBA
___ 03:18AM BLOOD Lactate-4.4*

DISCHARGE:
==========
___ 12:53PM BLOOD WBC-8.2 RBC-4.19* Hgb-12.5* Hct-37.1* 
MCV-89 MCH-29.8 MCHC-33.7 RDW-12.3 RDWSD-39.8 Plt ___
___ 06:15AM BLOOD Neuts-76.0* Lymphs-13.8* Monos-9.2 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-6.97* AbsLymp-1.27 
AbsMono-0.85* AbsEos-0.05 AbsBaso-0.02
___ 06:15AM BLOOD Glucose-100 UreaN-6 Creat-1.2 Na-142 
K-3.7 Cl-104 HCO3-27 AnGap-11
___ 06:15AM BLOOD ALT-8 AST-14 AlkPhos-39* TotBili-1.1
___ 06:15AM BLOOD Calcium-8.8 Phos-2.6* Mg-1.9
___ 07:10AM BLOOD Lactate-1.6

UA (___): pH 7.0, lg blood, sm ___, 10 ket, 3 RBCs, 2 WBC, few
bact, 0 epis
UA ___ s/p Foley): pH 6.5, lg blood, 100 prot, 40 ket, neg 
nit,
neg ___, > 182 RBCs, 4 WBCs, few bact, <1 epi

Ulytes (___): 
UNa 100, UCr 373 (FeNa 0.2%)

UCx (___): negative
UCx (___): 1000 cfu Alpha hemolytic colonies consistent with
alpha streptococcus or Lactobacillus sp. 
BCx (___): pending x2

IMAGING:
=========
EKG (___): ST at 105 bpm, nl axis, PR 158, QRS 90, QTC 462,
incomplete RBBB, TWI V2 (no prior for comparison)

CT urogram (___):
Mild hydroureteronephrosis on the left with distal ureteral 
stone
measuring 2 mm in size. Additional 2-mm right renal stone is 
seen
in the lower pole of the right kidney without right-sided
hydroureteronephrosis. 

KUB (___):
No small bowel obstruction. Multiple densities consistent with
renal and ureteral calculi are better characterized on 
concurrent
CT urogram. 

CXR (___):
No focal consolidation. No suggestion of fluid overload.

Renal U/S (___):
1. Mild left-sided hydronephrosis, unchanged compared to recent
CT. No evidence of perinephric abscess. 
2. No right-sided hydronephrosis. 
3. Bladder is moderately distended with fluid despite presence 
of
the Foley catheter which is not inferior definitively within the
bladder, concerning for malpositioning. 
 
Brief Hospital Course:
___ ___ man with no significant PMH
presenting with acute onset L-sided groin pain x 6 hours, likely
secondary to L-sided ureteral stone and mild L
hydroureteronephrosis, with course c/b oliguric ___, now
resolved.

# L-sided inguinal pain:
# Nausea/emesis:
# L-sided mild hydroureteronephrosis with distal 2mm ureteral
calculus:
# Oliguric ___:
# Elevated lactate:
Mr. ___ presented with ___ L inguinal pain and was 
found
to have a 2mm distal ureteral stone with mild L
hydroureteronephrosis, as well as a 2mm R ureteral stone without
R-sided hydronephrosis. Stones likely calcium in composition,
possibly in setting of excessive vit C consumption. His pain and
nausea were controlled with morphine and Zofran in the ED.
Initial labs were suggestive of profound dehydration in setting
of emesis and poor PO intake, with lactate elevated to 4.4 and 
Cr
to 1.3-1.4 (b/l unclear). He received 5L IVFs in the ED with
persistent poor UOP despite Foley catheter placement. He was
admitted to the hospital and received an additional 2L IVFs with
resolution of his oliguria and elevated lactate and improvement
in his Cr to 1.2 at discharge. UA was negative x 2. Initial UCx
grew ~1000 cfu GPCs (alpha hemolytic colonies) with repeat UCx
negative. Renal U/S on ___ showed mild, stable L hydronephrosis
without evidence of ___ abscess. He received 
ceftriaxone
1g in the ED, not continued on admission in absence of evidence
for a UTI. ___ was discontinued on ___ and patient voided
spontaneously. Urology was consulted and recommended initiation
of tamsulosin 0.4mg QHS as medical expulsion therapy pending
outpatient urology ___. He will ___ with urology on ___ (Dr.
___ for repeat renal U/S to ensure stone passage. He was
advised to strain his urine and bring stone fragments to his
urology appointment. In addition, he was advised to discontinue
vitamin C supplementation. Of note, patient is scheduled to
travel to ___ to visit family on ___ I advised him to
postpone this trip given the need for repeat labwork this week
and the possibility of recurrent symptoms prior to confirming
stone passage at ___ clinic on ___. Should he decide to
travel, he confirmed that he will have ready access to medical
care. 

# Normocytic anemia:
# Microscopic hematuria:
Hgb downtrended from 15.2 on admission to 11.7 on ___, improved
on recheck without intervention to 12.5 prior to discharge.
Initial UA ___ immediately after Foley placement showed >182
RBCs, likely secondary to nephrolithiasis vs traumatic Foley
placement, with repeat UA ___ showing only 3 RBCs with no
evidence of gross hematuria. He should have a repeat CBC drawn 
at
a PCP ___ on ___ (will be seen at ___) to ensure stability. Further ___ of microscopic 
hematuria
deferred to outpatient urology. 

# Hypoxia:
Per ED, patient reportedly has transient desaturations to the 
___
on RA, which resolved spontaneously. CXR without evidence of PNA
or edema, and no clinical evidence of volume overload. On
admission and discharge he was breathing comfortably and
saturating well on RA.

** TRANSITIONAL **
[ ] ___ with urology ___ for repeat renal U/S to ensure stone
passage and to ___ microscopic hematuria
[ ] repeat CBC and BMP on ___ to ensure stability of anemia and
improvement in ___
[ ] ___ BCx, pending at discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth nightly Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Nephrolithiasis with mild L-sided hydroureteronephrosis

Secondary:
Oliguric ___
Normocytic anemia
Microscopic hematuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with pain due to a kidney 
stone that is blocking your left ureter. You were treated with 
pain medications and fluids and a new medication called 
tamsulosin, which you should continue after discharge until you 
are seen by the urology doctors. Please make sure to stay 
hydrated, as doing so can help the stone pass as well.

Your stone may have been caused by vitamin C - please 
discontinue using this supplement. To help understand the cause 
of your kidney stone, please collect and strain your urine and 
bring any stone fragments to your urology follow-up appointment.

To ensure your blood counts and kidney function continue to 
improve, we have scheduled an appointment for you with Northeast 
___ Health services on ___. Your urology appointment is 
scheduled for ___. We recommend that you postpone your trip to 
___ until passage of your kidney stone is confirmed, given 
that your symptoms could recur at any time. 

With best wishes,
___ Medicine
 
Followup Instructions:
___